US05739339
(1RS,2SR,6RS)-2-Hydroxymethyl-8-azabicyclo[4.3.0]non-4-ene
Initially introduce 83.2 g (1.0 mol) of (E)-1-amino-2,4-pentadiene (title compound from Example B.2.) in 250 ml of THF, and add 0.1 g of 4-hydroxyanisole. Subsequently, at an internal temperature of 20°-30° C., add 229.2 g (1.05 mol) of di-tert-butyl dicarbonate dissolved in 250 ml of THF dropwise. After addition is complete, stir at room temperature for 20 h. Add 103.0 g (1.05 mol) of maleic anhydride, and heat to reflux for 5 h. Concentrate and take up the residue in 500 ml of methanol, add 30 ml of p-toluenesulphonic acid, and then heat once again to reflux for 5 h. After cooling with ice, and stirring, rapidly add a solution of 20 g of sodium carbonate dissolved in 500 ml of water dropwise, allow the mixture to stand for a further 30 min in an ice bath, and filter off the precipitate with suction, wash it with a little water, and dry it at 50° C. to constant weight.

reactant | (E)-1-amino-2,4-pentadiene | 1.0 mol, 83.2 g | NC\C=C\C=C | C5H9N
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | (1RS,2SR,6RS)-2-Hydroxymethyl-8-azabicyclo[4.3.0]non-4-ene | OCC1C2CNCC2C=CC1 | C9H15NO
